US04348399
A mixture of 5 g. of methyl (4-hexadecylaminophenyl)pyruvate, 5 g. of potassium hydroxide and 50 ml. of a 1:1 ethanol:water solution is heated to 50° for 3 hrs. While hot, the reaction mixture is neutralized with acetic acid and cooled. The precipitate is collected, dried and recrystallized, yielding (4-hexadecylaminophenyl)pyruvic acid.

reactant | methyl (4-hexadecylaminophenyl)pyruvate | C(CCCCCCCCCCCCCCC)NC1=CC=C(C=C1)CC(C(=O)OC)=O | C26H43NO3
reactant | potassium hydroxide | [OH-].[K+]
reactant | ethanol | C(C)O | C2H6O
reactant | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | (4-hexadecylaminophenyl)pyruvic acid | C(CCCCCCCCCCCCCCC)NC1=CC=C(C=C1)CC(C(=O)O)=O | C25H41NO3
